US07259266B2
Step 1. Preparation of 5-bromo-2-hydroxy-3-methylbenzaldehyde
The solution of 2-Hydroxy-3-methylbenzaldehyde (1.0 g, 7.35 mmole) in acetic acid (6 mL) was cooled to 0° C. (ice bath). Bromine (1.36 g, 8.52 mmole) was added dropwise and allowed to stir for 2 hours. The reaction was warmed to room temperature and diluted with water (100 mL) yielding a light orange precipitate. The solid was filtered and washed with water (10 mL). Dried on high vacuum to give a light brown solid (1.4 g, 88.6%). 1H NMR (CDCl3/400 MHz) 11.16 (s, 1H), 9.79 (s, 1H), 7.48 (s, 1H), 7.46 (s, 1H), 2.23 (s, 3H).

reactant | 2-Hydroxy-3-methylbenzaldehyde | 7.35 mmole, 1.0 g | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | Bromine | 8.52 mmole, 1.36 g | BrBr | Br2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 5-bromo-2-hydroxy-3-methylbenzaldehyde | 1.4 g, 88.6% | BrC=1C=C(C(=C(C=O)C1)O)C | C8H7BrO2
